US07253165B2
Synthesis of 1-(4-benzo[b]thiophen-3-yl-phenoxy)-3 benzylamino-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of 2-(4-benzo[b]thiophen-3-yl-phenoxymethyl)-oxirane, benzylamine and ethanol essentially as described above in Example 94 except that the reaction mixture is heated for 15.5 hours and the column chromatography is performed with a graded solvent mixture from 5% methanol in ethyl acetate to 10% methanol in ethyl acetate. Purity by LC/MS=100%, [M+H]+=390.

reactant | 2-(4-benzo[b]thiophen-3-yl-phenoxymethyl)-oxirane | S1C2=C(C(=C1)C1=CC=C(OCC3OC3)C=C1)C=CC=C2 | C17H14O2S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | ethanol | C(C)O | C2H6O
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-benzo[b]thiophen-3-yl-phenoxy)-3 benzylamino-propan-2-ol | S1C2=C(C(=C1)C1=CC=C(OCC(CNCC3=CC=CC=C3)O)C=C1)C=CC=C2 | C24H23NO2S
